### PR TITLE
feat: the Krull dimension of the product of finitely many rings is equal to the maximum of Krull dimensions of the factors

### PR DESCRIPTION
**Pull request by SynBurz**
Add `ringKrullDim_pi_eq_iSup_ringKrullDim`. Also add useful defs: `LTSeries.sigmaEquiv`, `PrimeSpectrum.sigmaToPiOrderIso`, and lemmas `PrimeSpectrum.sigmaToPiOrderIso_apply`, Pi.not_comap_evalRingHom_le_comap_of_neq`, `LTSeries.sigma_fst_eq_fst`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 1]
```diff
@@ -724,6 +724,28 @@ lemma sigmaToPiHomeo_apply [Finite ι] (p : Σ i, PrimeSpectrum (R i)) :
...
+    rewrite [Sigma.le_def]
+    by_cases! hij : i = j
+    · subst hij
+      rewrite [Ideal.comap_le_comap_iff_of_surjective _ <|
+        RingHom.surjective (Pi.evalRingHom R i), asIdeal_le_asIdeal]
+      exact Iff.symm (exists_prop_of_true rfl)
+    · simp_rw [hij, IsEmpty.exists_iff, iff_false]
+      exact Pi.not_comap_evalRingHom_le_comap_of_neq R hij p q (Ideal.IsPrime.ne_top')
+
+lemma sigmaToPiOrderIso_apply [Finite ι] (p : Σ i, PrimeSpectrum (R i)) :
```
Comment (wwylele) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:747]:
```suggestion
@[simp]
lemma sigmaToPiOrderIso_apply [Finite ι] (p : Σ i, PrimeSpectrum (R i)) :
```

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 2]
```diff
@@ -1363,6 +1385,22 @@ theorem PrimeSpectrum.topologicalKrullDim_eq_ringKrullDim [CommSemiring R] :
   Order.krullDim_orderDual.symm.trans <| Order.krullDim_eq_of_orderIso
   (PrimeSpectrum.pointsEquivIrreducibleCloseds R).symm
 
+/-- The Krull dimension of the product of finitely many rings is equal to the maximum
+of Krull dimensions of the factors. -/
+theorem ringKrullDim_pi_eq_iSup_ringKrullDim {ι : Type*} (R : ι → Type*) [∀ i, CommRing (R i)]
+    [Finite ι] : ringKrullDim (Π i, R i) = ⨆ i, ringKrullDim (R i) := by
+  change Order.krullDim (PrimeSpectrum (Π i, R i)) = _
+  rewrite [← Order.krullDim_eq_of_orderIso (PrimeSpectrum.sigmaToPiOrderIso R), Order.krullDim]
```
Comment (wwylele) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:1394]: I don't think I have ever seen `rewrite` in Mathlib. Does `rw` work?

Comment (SynBurz) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean:1394]: I just thought that "rewrite" is cheaper than "rw" because (if I understand correctly) it doesn't try to close the goal after rewriting. Is there a tendency not to use it in mathlib?
